US07560569B2
4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid (1.00 g) was dissolved in dichloromethane (10 mL). To this solution, 3,4-dihydro-2H-pyran (1.20 mL) and p-toluenesulfonic monohydrate (6.3 mg) were sequentially added and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was sequentially washed with a saturated aqueous solution of sodium bicarbonate and saturated brine. The mixture was then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant:hexane:ethyl acetate=4:1) to give 2-tetrahydropyranyl 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylate (1.18 g).

reactant | 4-Benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylic acid | 1.00 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)O | C17H21NO4
reactant | 3,4-dihydro-2H-pyran | 1.20 mL | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-tetrahydropyranyl 4-benzyloxycarbonylaminobicyclo[2.2.2]octane-1-carboxylate | 1.18 g | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)OC2OCCCC2 | C22H29NO5
